US07211601B2
(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl-N-[(2RS)-2-(3,4-dihydroxy-phenyl)-2-hydroxyethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbonyl chloride, and 4-[(1RS)-2-amino-1-hydroxyethyl]-1,2-benzenediol, the title compound was obtained in 66% purity by HPLC. MS(ESI+): m/z=490.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | 4-[(1RS)-2-amino-1-hydroxyethyl]-1,2-benzenediol | NCC(O)C=1C=C(C(=CC1)O)O | C8H11NO3
product | [1,1′-biphenyl]-4-ylcarbonyl-N-[(2RS)-2-(3,4-dihydroxy-phenyl)-2-hydroxyethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | C1(=CC=C(C=C1)C(=O)N1C(CC(C1)=NOC)C(=O)NCC(O)C1=CC(=C(C=C1)O)O)C1=CC=CC=C1 | C27H27N3O6
